US04657579
N-Propargyl-N-(4,6-dimethyl--2-dimethylaminopyrimidin-5-yl)-chloroacetamide
8.0 g of N-propargyl-N-(4,6-dimethyl-2-dimethylamino-pyrimidin-5-yl)-hydroxyacetamide, 3.7 g 4-dimethylaminopyridine and 100 ml dry CH2Cl2 are charged in a sulphonation flask. Thereto are added, dropwise, 3.43 g mesyl chloride in 30 ml of dry CH2Cl2. The reaction temperature rises from 22° up to 33°. The mixture is heated under reflux for 34 hours, cooled and diluted with water. The organic phase is partitioned off, dried over Na2SO4 and evaporated. The oily residue is chromatographed on silica gel with diethylether/hexane 1:1 to give the title compound, m.p. 108°-110°.

reactant | N-propargyl-N-(4,6-dimethyl-2-dimethylamino-pyrimidin-5-yl)-hydroxyacetamide | 8.0 g | C(C#C)N(C(CO)=O)C=1C(=NC(=NC1C)N(C)C)C | C13H18N4O2
reactant | mesyl chloride | 3.43 g | S(=O)(=O)(C)Cl | CH3ClO2S
catalyst | 4-dimethylaminopyridine | 3.7 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | N-Propargyl-N-(4,6-dimethyl--2-dimethylaminopyrimidin-5-yl)-chloroacetamide | C(C#C)N(C(CCl)=O)C=1C(=NC(=NC1C)N(C)C)C | C13H17ClN4O
